US09447084B2
(E)-N-[(4-bromonaphthalen-1-yl)methylidene]hydroxylamine
Into a 250-mL round-bottom flask, was placed ethanol (100 mL), water (40 mL), 4-bromonaphthalene-1-carbaldehyde (4.3 g, 18.29 mmol, 1.00 equiv), hydroxylamine hydrochloride (1.52 g, 21.87 mmol, 1.20 equiv), sodium acetate (2.25 g, 27.43 mmol, 1.50 equiv). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The solids were collected by filtration and washed with enough water. The solid was dried in an oven under reduced pressure. This resulted in 4.5 g (98%) of (E)-N-[(4-bromonaphthalen-1-yl)methylidene]hydroxylamine as a white solid.

reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | 4-bromonaphthalene-1-carbaldehyde | 18.29 mmol, 4.3 g, 1.00 equiv | BrC1=CC=C(C2=CC=CC=C12)C=O | C11H7BrO
reactant | hydroxylamine hydrochloride | 21.87 mmol, 1.52 g, 1.20 equiv | Cl.NO
reactant | sodium acetate | 27.43 mmol, 2.25 g, 1.50 equiv | C(C)(=O)[O-].[Na+]
solvent | water | 40 mL | O | H2O
product | (E)-N-[(4-bromonaphthalen-1-yl)methylidene]hydroxylamine | BrC1=CC=C(C2=CC=CC=C12)\C=N\O | C11H8BrNO
